datasets/10k_Mayr_OG.csv
SMILES Labelled
"C[C:11](CC1=CC=CC=C1)=[CH2:10].N#C[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[CH:21]/[C:22](C2=CC=CC=C2)=[O:23])[CH:36]=[CH:35]1>>C[C+:11](CC1=CC=CC=C1)[CH2:10][CH:20]([CH:21]=[C:22](C1=CC=CC=C1)[O-:23])[C:31]1=[CH:32][CH:33]=[C:34](C#N)[CH:35]=[CH:36]1 10,11=10,20;20,21=21,22;22,23=23"
"C[C:22]1=[N+:23](C)C2=C(C=CC=C2)/[C:21]1=[CH:20]\[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1.C[Sn:63](C)(C)[CH2:62][CH:11]([H:10])[CH2:72][Sn:73](C)(C)C>>C[C:22]1=[C:21]([CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)C2=C(C=CC=C2)[N:23]1C.C[Sn:63](C)(C)[CH2:62][CH+:11][CH2:72][Sn:73](C)(C)C 10,11=10,20;20,21=21,22;22,23=23"
"C1C[CH:10]=[CH:11][CH:62]=[CH:63]C1.CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25]>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([CH:10]2CCC[CH:63]=[CH:62][CH+:11]2)[C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)=[CH:22]1 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
C1C[S:31][CH+:20][S:41]C1.[CH-:10]([C:61]#[N:62])[C:71]1=[CH:72][CH:73]=[C:74]([C:75]#[N:76])[CH:85]=[CH:84]1>>C1C[S:31][CH:20]([CH:10]([C:61]#[N:62])[C:71]2=[CH:72][CH:73]=[C:74]([C:75]#[N:76])[CH:85]=[CH:84]2)[S:41]C1 10=20
"C1C[N:10]=[C:11]2CCC[N:12]2C1.C[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56](C)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1>>C[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([N:10]2CCC[N+:12]3=[C:11]2CCC3)[CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56](C)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"CSC[C:20](C)=[O:21].FC(F)(F)[S:61]([CH-:10][C:81]1=[CH:82][CH:83]=[CH:84][CH:93]=[CH:92]1)(=[O:62])=[O:72]>>CSC[C:20](C)([CH:10]([S:61](C(F)(F)F)(=[O:62])=[O:72])[C:81]1=[CH:82][CH:83]=[CH:84][CH:93]=[CH:92]1)[O-:21] 10=20;20,21=21"
"CN1C(=O)N(C)[C:72]2=[C:71](C1=O)[N:10]=[CH:11][N-:12]2.CO[C:44]1=[CH:43][CH:42]=[C:41]([CH+:20][C:31]23C4C5C6C2[Fe:32]56432789C3C2C7C8C39)[CH:46]=[CH:45]1>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([N:10]2[CH:11]=[N:12][C:72]3=[C:71]2C(=O)N(C)C(=O)N3C)[C:31]23C4C5C6C2[Fe:32]56432789C3C2C7C8C39)[CH:46]=[CH:45]1 10,11=10,20;12=11,12"
"C1CC[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1.C[Si:63](C)(C)[CH2:62][CH:11]([H:10])[CH2:72][Si:73](C)(C)C>>C1CC[N:23]([CH:22]=[CH:21][CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1.C[Si:63](C)(C)[CH2:62][CH+:11][CH2:72][Si:73](C)(C)C 10,11=10,20;20,21=21,22;22,23=23"
"CC[O:62]/[C:11](=[CH:10]/[C:71]#[N:72])[O-:12].F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][C:55](F)=[CH:56][C:57](F)=[CH:58]2)=[CH:32]1>>CC[O:62][C:11]([CH:10]([CH:20]([C:31]1=[CH:32][C:33](F)=[CH:34][C:35](F)=[CH:36]1)[CH:41]=[CH:42][C:53]1=[CH:54][C:55](F)=[CH:56][C:57](F)=[CH:58]1)[C:71]#[N:72])=[O:12] 10,11=10,20;12=11,12"
"CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[CH:22]=[C:23](Br)[C:24](=[O:25])[C:33](Br)=[CH:32]2)[CH:46]=[CH:45]1.C[C:11]1=[CH:10][C:61]2=[C:62]([NH:12]1)[CH:63]=[CH:64][CH:73]=[CH:72]2>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH:10]2[C:11](C)=[NH+:12][C:62]3=[C:61]2[CH:72]=[CH:73][CH:64]=[CH:63]3)[C:21]2=[CH:22][C:23](Br)=[C:24]([O-:25])[C:33](Br)=[CH:32]2)[CH:46]=[CH:45]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
C1CCN([C:34]2=[CH:33][CH:32]=[C:31]([CH+:20][C:41]3=[CH:42][CH:43]=[C:44](N4CCCC4)[CH:45]=[CH:46]3)[CH:36]=[CH:35]2)C1.C1C[C:71](=[O:72])[N-:10][C:61]1=[O:62]>>C1CCN([C:34]2=[CH:33][CH:32]=[C:31]([CH:20]([N:10]3[C:61](=[O:62])CC[C:71]3=[O:72])[C:41]3=[CH:42][CH:43]=[C:44](N4CCCC4)[CH:45]=[CH:46]3)[CH:36]=[CH:35]2)C1 10=20
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].CC1=CC=[C:10]([B:11]2[O:12]C(C)(C)C(C)(C)[O:62]2)O1>>CC1(C)C(C)(C)[O:62][B:11]=[O+:12]1.CC1=CC=[C:10]([CH:20]([C:21]2=[CH:22][C:23](C(C)(C)C)=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32]2)[C:41]2=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]2)O1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"C[C@H]1[C@@H](C)[O:62][C@@:11](C)([H:10])[O:12]1.C[CH:20]1C[Fe-2:21]12345(C#[O+])(C#[O+])C1C2C3C4C15>>C[C@H]1[C@@H](C)[O:62][C:11](C)=[O+:12]1.C[CH:20](C[Fe-3:21]1234(C#[O+])(C#[O+])C5C1C2C3C54)[H:10] 10,11=10,20;12=11,12;20,21=21"
"CC[O:50][C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)=[O:23].C[C:63]1=[C:62]([N:61]2[C-:10]=[N+:71](C)[CH:73]=[CH:72]2)[C:67](C)=[CH:66][C:65](C)=[CH:64]1>>CC[O:50][C:22](=[CH:21][CH:20]([C:10]1=[N+:71](C)[CH:73]=[CH:72][N:61]1[C:62]1=[C:63](C)[CH:64]=[C:65](C)[CH:66]=[C:67]1C)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[O-:23] 10=20;20,21=21,22;22,23=23"
"C1=CC=C([S:32]([C:21](=[CH2:20])[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])(=[O:33])=[O:34])C=C1.CCCC[C-:10]([C:61](=[O:62])[O:112]CC)[C:71](=[O:72])[O:82]CC>>CCCC[C:10]([CH2:20][C-:21]([S:32](C1=CC=CC=C1)(=[O:33])=[O:34])[S:41](C1=CC=CC=C1)(=[O:42])=[O:43])([C:61](=[O:62])[O:112]CC)[C:71](=[O:72])[O:82]CC 10=20;20,21=21"
